US08633186B2
N-(1-(2-cyano-3-nitrophenoxy)-2-methylpropan-2-yl)benzamide
Prepared as in Example 215c from N-(1-hydroxy-2-methylpropan-2-yl)benzamide (Boyd, R. N.; Hansen, R. H. J. Am. Chem. Soc. 1953, 75, 5896) and 2,6-dinitrobenzonitrile in 91% yield as a pale yellow solid. MS 340 (MH+).

reactant | N-(1-hydroxy-2-methylpropan-2-yl)benzamide | OCC(C)(C)NC(C1=CC=CC=C1)=O | C11H15NO2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | N-(1-(2-cyano-3-nitrophenoxy)-2-methylpropan-2-yl)benzamide | 91% yield | C(#N)C1=C(OCC(C)(C)NC(C2=CC=CC=C2)=O)C=CC=C1[N+](=O)[O-] | C18H17N3O4
